US08871756B2
N-{[3-(Aminomethyl)oxetan-3-yl]methyl}-6-chloro-2-(8-methoxy-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-amine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4,6-dichloroquinolin-2-yl)-8-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 3-13) and oxetane-3,3-diyldimethanamine. MS obsd. (ESI+) [(M+H)+] 503, 1H NMR (400 MHz, CD3OD) δ ppm 8.23 (s, 1 H), 7.88 (d, J=8.59 Hz, 1 H), 7.73 (d, J=8.84 Hz, 1 H), 7.65-7.51 (m, 2 H), 7.21 (dd, J=8.34, 2.78 Hz, 1 H), 6.30 (s, 1 H), 5.26 (brs, 2 H), 4.76-4.60 (m, 6 H), 4.56 (brs, 1 H), 3.91 (s, 2 H), 3.85 (s, 3 H), 3.69 (brs, 2 H), 3.52 (s, 2 H).

reactant | 4-(4,6-dichloroquinolin-2-yl)-8-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)Cl)N1CCS(C2=C(C1)C=CC(=C2)OC)(=O)=O | C19H16Cl2N2O3S
reactant | oxetane-3,3-diyldimethanamine | O1CC(C1)(CN)CN | C5H12N2O
product | N-{[3-(Aminomethyl)oxetan-3-yl]methyl}-6-chloro-2-(8-methoxy-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-amine | NCC1(COC1)CNC1=CC(=NC2=CC=C(C=C12)Cl)N1CCS(C2=C(C1)C=CC(=C2)OC)(=O)=O | C24H27ClN4O4S
